US07838517B2
Method H: 4-(4-(5,6,7,8-tetrahydro-7,7-dimethyl-4-oxo-4H-thiazolo[5,4-c]azepin-2-yl)pyridin-2-ylamino)-N-methylbenzamide (I-5)
2-(2-chloropyridin-4-yl)-5,6,7,8-tetrahydro-7,7-dimethylthiazolo[5,4-c]azepin-4-one (70 mg, 1.0 Eq.), 4-amino-N-methyl-benzamide (41 mg, 1.2 Eq.), NaOtBu (61 mg, 2.8 Eq.), Pd(OAc)2 (5 mg, 0.1 Eq.) were suspended/dissolved in dry toluene and degassed (vacuum/N2 cycles×5). 2-Di-tert-butylphosphino)biphenyl (143 mg, 0.2 Eq.) was then added. The resultant mixture was then refluxed overnight. A further portion of NaOtBu (61 mg, 2.8 Eq.), Pd(OAc)2 (5 mg, 0.1 Eq.) and 2-(di-tert-butylphosphino)biphenyl (14 mg, 0.2 Eq.) were added, followed by dry dioxane (0.5 mL). The resultant mixture was refluxed for a further night. The reaction mixture was allowed to cool to RT, partitioned between EtOAc/MeOH (3:1)/NH4Cl, and then extracted into EtOAc/MeOH (3:1) (3×50 mL). The combined organic layers were washed with brine (1×20 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. Purification was achieved using column chromatography (10% MeOH/90% DCM) to obtain the title compound as a bright yellow powder (18.6 mg, 19% yield); 1H NMR (DMSO D6) 1.0 (6H, s), 2.8 (3H, d), 3.0 (2H, s), 3.0 (2H, m), 7.3 (1H, m), 7.5 (1H, s), 7.8 (4H, s), 8.2 (1H, m), 8.3 (2H, m), 9.6 (1H, s); LC/MS M+1 (obs.) 422.20; LC/MS M−1 (obs.) 420.30.

reactant | 2-(2-chloropyridin-4-yl)-5,6,7,8-tetrahydro-7,7-dimethylthiazolo[5,4-c]azepin-4-one | 70 mg, 1.0 Eq. | ClC1=NC=CC(=C1)C=1SC=2C(NCC(CC2N1)(C)C)=O | C14H14ClN3OS
reactant | 4-amino-N-methyl-benzamide | 41 mg, 1.2 Eq. | NC1=CC=C(C(=O)NC)C=C1 | C8H10N2O
reactant | NaOtBu | 61 mg, 2.8 Eq. | CC(C)(C)[O-].[Na+]
reactant | biphenyl | 143 mg, 0.2 Eq. | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | NaOtBu | 61 mg, 2.8 Eq. | CC(C)(C)[O-].[Na+]
reactant | 2-(di-tert-butylphosphino)biphenyl | 14 mg, 0.2 Eq. | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 5 mg, 0.1 Eq. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Pd(OAc)2 | 5 mg, 0.1 Eq. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 4-(4-(5,6,7,8-tetrahydro-7,7-dimethyl-4-oxo-4H-thiazolo[5,4-c]azepin-2-yl)pyridin-2-ylamino)-N-methylbenzamide | 18.6 mg, 19% yield | CC1(CC2=C(C(NC1)=O)SC(=N2)C2=CC(=NC=C2)NC2=CC=C(C(=O)NC)C=C2)C | C22H23N5O2S
